US04888047
N-[4-[-(4,6-dimethylpyrimidin-2-yl)thio]phenyl]-N-methylhexanamide
Four grams N-[4-[(4,6-dimethylpyrimidin-2-yl)thio]phenyl]hexanamide, 3.4 g methyl iodide and 0.4 g tetrabutylphosphonium bromide was dissolved in a mixture of 10 ml 50% NaOH and 50 ml benzene. This was stirred vigorously at room temperature for 72 hours. Fifty milliliters water was then added and the benzene layer was separated off. The benzene solution was washed with 4×100 ml water then dried over Na2SO4. The solvent was evaporated giving 3.5 g dark brown oil. The oil was chromatographed on silica gel eluted with 50% ethyl acetate/hexanes giving 2.5 g yellow oil which slowly crystallized. Melting point of the resulting pale yellow wolid was 61°-63° C. The structure was confirmed by infrared, nuclear magnetic resonance and mass spectral analysis as that of the desired product, N-[4[(4,6-dimethylpyrimidin-2-yl)thio]phenyl]-N-methylhexanamide.

reactant | N-[4-[(4,6-dimethylpyrimidin-2-yl)thio]phenyl]hexanamide | Four grams | CC1=NC(=NC(=C1)C)SC1=CC=C(C=C1)NC(CCCCC)=O | C18H23N3OS
reactant | methyl iodide | 3.4 g | CI | CH3I
reactant | water | Fifty milliliters | O | H2O
catalyst | tetrabutylphosphonium bromide | 0.4 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | NaOH | 10 ml | [OH-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-[4-[-(4,6-dimethylpyrimidin-2-yl)thio]phenyl]-N-methylhexanamide | 3.5 g | CC1=NC(=NC(=C1)C)SC1=CC=C(C=C1)N(C(CCCCC)=O)C | C19H25N3OS
